US06992085B2
Step A: Ethyl 4-(3,4,5-trimethoxyphenoxy)butanoate
9.2 g of trimethoxyphenol, 14 g of potassium carbonate and 10.7 g of ethyl 4-bromobutanoate in 150 ml of 2-butanone are refluxed for 24 hours. The mineral salts are then filtered off and the solvent is distilled off under reduced pressure, enabling the expected compound to be obtained.

reactant | trimethoxyphenol | 9.2 g | COC1=C(C(=C(C=C1)O)OC)OC | C9H12O4
reactant | potassium carbonate | 14 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 4-bromobutanoate | 10.7 g | BrCCCC(=O)OCC | C6H11BrO2
solvent | 2-butanone | 150 ml | CC(CC)=O | C4H8O
product | Ethyl 4-(3,4,5-trimethoxyphenoxy)butanoate | COC=1C=C(OCCCC(=O)OCC)C=C(C1OC)OC | C15H22O6
